US06086964
According to the method of J. Cole et al., J. Chem. Soc., 244 (1962), a mixture of toluylacetylene (200 mmol), 2-(4-bromophenyl)-1,3-dioxalane (200 mmol), dimethylformamide (500 ml), and copper iodide (I) (300 mmol) was heated while stirring for 5 hours. After allowed to cool, 500 ml of 6M hydrochloric acid was added and stirred for 1 hour. It was extracted with 500 ml of toluene, and the organic layer was washed with water thrice and dried with anhydrous magnesium sulfate. The solvent was distilled off and the residue was purified by a silica gel column chromatography (eluent:toluene) to obtain 120 mmol of 4-(2-(4-methylphenyl)ethynyl)benzaldehyde.

reactant | toluylacetylene | 200 mmol | C1(=C(C=CC=C1)C#C)C | C9H8
reactant | hydrochloric acid | 6M, 500 ml | Cl | ClH
reactant | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
catalyst | copper iodide | 300 mmol | [Cu](I)I
product | 4-(2-(4-methylphenyl)ethynyl)benzaldehyde | 120 mmol | CC1=CC=C(C=C1)C#CC1=CC=C(C=O)C=C1 | C16H12O
